US04795751
In the same manner as described in Example 13, 1-cyclopropyl-5,6,8-trifluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid was allowed to react with ammonia in dimethylformamide in a sealed tube to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, m.p. 254°-255° C.

reactant | 1-cyclopropyl-5,6,8-trifluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCN(CC1)C)F)F)=O)C(=O)O | C18H18F3N3O3
reactant | ammonia | N | H3N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CCN(CC1)C)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
